US05514719
238 g (0.885 mol) of 2-bromo-4-(trifluoromethyl)benzoic acid, 1000 ml of absolute ethanol and 100 ml of concentrated sulfuric acid are introduced successively into a 2-liter round-bottomed flask. The reaction mixture is brought to reflux for 6 hours and then poured, after cooling, onto 2.5 liters of ice-cold water; the oil formed is extracted with ethyl acetate. The organic phase is successively washed with water, with 1N sodium hydroxide solution and then again with water. After drying over magnesium sulfate, the solvent is evaporated to provide 263 g (yield: 100%) of ethyl 2-bromo-4-(trifluoromethyl)benzoate in the form of a yellow oil.

reactant | 2-bromo-4-(trifluoromethyl)benzoic acid | 0.885 mol, 238 g | BrC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H4BrF3O2
reactant | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 1000 ml | C(C)O | C2H6O
product | ethyl 2-bromo-4-(trifluoromethyl)benzoate | 263 g, yield: 100% | BrC1=C(C(=O)OCC)C=CC(=C1)C(F)(F)F | C10H8BrF3O2
